US08084448B2
E. 2,6-Dihydroxybenzonitrile
A mixture of 2,6-dihydroxybenzaldehyde (300 mg, 2.17 mmol) and hydroxylamine sulfate (758 mg, 6.51 mmol) in water (30 mL) is stirred at RT for 45 min. Methylene chloride (60 mL) is added followed by NaHCO3 (911 mg, 10.85 mmol) and the mixture is stirred at RT for 30 min. The organic phase is separated and dried over sodium sulfate and the solvent removed under reduced pressure to give the title compound as a pale yellow solid.

reactant | 2,6-dihydroxybenzaldehyde | 2.17 mmol, 300 mg | OC1=C(C=O)C(=CC=C1)O | C7H6O3
reactant | hydroxylamine sulfate | 6.51 mmol, 758 mg | S(=O)(=O)(O)O.NO
reactant | Methylene chloride | 60 mL | C(Cl)Cl | CH2Cl2
reactant | NaHCO3 | 10.85 mmol, 911 mg | C(=O)(O)[O-].[Na+]
solvent | water | 30 mL | O | H2O
product | 2,6-Dihydroxybenzonitrile | OC1=C(C#N)C(=CC=C1)O | C7H5NO2
